US08383657B2
(3R)-3-fluoro-N-(5-methyl-1,3-thiazol-2-yl)pyrrolidine-1-carboxamide
5-Methylthiazol-2-amine (2.28 g, 20.0 mmol) was dissolved into dichloromethane (200 mL) and cooled to near −50° C. 20% Phosgene in toluene (12.6 mL, 24 mmol) was added rapidly over less than 30 seconds and stirred for 10 minutes more at −45° C. before the addition of diisopropylethylamine (17.4 mL, 100 mmol). The mixture was stirred for another 30 minutes near −45° C., (R)-3-fluoropyrrolidine hydrochloride (5.02 g, 40 mmol) was added, and after five minutes the cold bath was removed and the reaction warmed slowly to room temperature. The solution was quenched and stirred thoroughly with concentrated aqueous ammonium hydroxide (25 mL). The aqueous phase was separated and extracted with dichloromethane, and the combined organic phases were washed twice with water; each aqueous phase was back-extracted with dichloromethane. The combined organic phases were concentrated and then slurried in 3:1 hexanes/ethyl acetate. The solids were collected by filtration, rinsed with more 3:1 hexanes/ethyl acetate, and then slurried and rinsed first with 3:1 hexanes/dichloromethane, and then with 1:1 hexanes/dichloromethane to give the title compound.

reactant | 5-Methylthiazol-2-amine | 20.0 mmol, 2.28 g | CC1=CN=C(S1)N | C4H6N2S
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 24 mmol, 12.6 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisopropylethylamine | 100 mmol, 17.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (R)-3-fluoropyrrolidine hydrochloride | 40 mmol, 5.02 g | Cl.F[C@H]1CNCC1
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (3R)-3-fluoro-N-(5-methyl-1,3-thiazol-2-yl)pyrrolidine-1-carboxamide | F[C@H]1CN(CC1)C(=O)NC=1SC(=CN1)C | C9H12FN3OS
